US06395734B1
Dimethylformamide was charged to a 500 mL, 3 neck round bottom flask equipped with mechanical stirring, a thermometer and a dropping funnel and maintained under a nitrogen atmosphere. The flask was cooled to 0° C. and 58.4 mL of phosphorus oxychloride was added dropwise over 80 minutes. Dichloroethane (280 mL) was added and the mixture allowed to warm to room temperature and then cooled to −10° C. 3-(2-methoxycarbonylethyl)-4-methylpyrrole (55.7 g) dissolved in 80 mL dichloroethane was added dropwise over 1 hour and the mixture stirred for another 35 minutes. The mixture was rotary evaporated at <30° C. The fluid residue was poured into 2700 mL of ice-cold 2 N sodium hydroxide solution. The resulting solution was heated to 88° C. over 20 minutes and then maintained at this temperature for an additional 30 minutes. The solution was cooled to ambient temperature and extracted with 200 mL of ethyl ether. The aqueous solution was cooled to 0° C. and acidified to pH 3.5 by slowly adding about 1350 mL of 5 N hydrochloric acid. The yellow precipitate was collected by vacuum filtration, washed four times with 100 mL of water, and dried in a vacuum oven at ambient temperature to give 54.4 g (90.2% yield) of crude 4-(2-carboxyethyl)-2-formyl-3-methylpyrrole.

reactant | Dimethylformamide | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 58.4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(2-methoxycarbonylethyl)-4-methylpyrrole | 55.7 g | COC(=O)CCC1=CNC=C1C | C9H13NO2
solvent | dichloroethane | 80 mL | ClC(C)Cl | C2H4Cl2
solvent | Dichloroethane | 280 mL | ClC(C)Cl | C2H4Cl2
product | 4-(2-carboxyethyl)-2-formyl-3-methylpyrrole | 54.4 g, 90.2% yield | C(=O)(O)CCC=1C(=C(NC1)C=O)C | C9H11NO3
